US07323475B2
2-(R)-[(4-Hydroxy-7-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-propionic acid
Prepared in analogy to Example A-63 g) by reacting 4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester with D-alanine. MS-(−)-ion: M−1=367.1.

reactant | 4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)SC1=CC=CC=C1 | C20H19NO3S
reactant | D-alanine | N[C@H](C)C(=O)O | C3H7NO2
product | 2-(R)-[(4-Hydroxy-7-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-propionic acid | OC1=C(N=CC2=CC(=CC=C12)SC1=CC=CC=C1)C(=O)N[C@@H](C(=O)O)C | C19H16N2O4S
